US06777408B1
5-(2-chlorophenyl)-1,2,3,4,5,6,7,9-octahydro-N-(4-methoxy-2-nitro-phenyl)-2-oxo-1-(2-pentyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide
Acetic acid (0.5 ml) is added to 0.16 g of 5-(2-chiorophenyl)-1,2,3,6,7,9-hexahydro-N-(4-methoxy-2-nitrophenyl)-2-oxo-1-(2-pentyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide (0.26 mmol). Ethanol (3.5 ml) is added to this yellow suspension then acetic acid (1 ml) and finally sodium cyanoborohydride (0.033g, 0.52 mmol) are added dropwise. The reaction mixture is agitated for one hour then it is heated for one hour at 40° C. until solubilization. Then agitation is carried out for 2 hours at 22° C. The reaction medium is poured into ice-cooled water (30 ml), followed by agitation, filtering then washing abundantly with water. After drying under vacuum without heating, the desired product is obtained in the form of an orange powder (0.145 g, 83%)

reactant | Acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
reactant | 5-(2-chiorophenyl)-1,2,3,6,7,9-hexahydro-N-(4-methoxy-2-nitrophenyl)-2-oxo-1-(2-pentyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide | 0.26 mmol, 0.16 g | ClC1=C(C=CC=C1)C=1C2=C(N(C(CN1)=O)C(C)CCC)SC1=C2CCN(C1)C(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=S | C29H30ClN5O4S2
reactant | Ethanol | 3.5 ml | C(C)O | C2H6O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.52 mmol, 0.033g | C(#N)[BH3-].[Na+]
solvent | water | 30 ml | O | H2O
product | 5-(2-chlorophenyl)-1,2,3,4,5,6,7,9-octahydro-N-(4-methoxy-2-nitro-phenyl)-2-oxo-1-(2-pentyl)-8H-pyrido[4′,3′:4,5]thieno[2,3-e]-1,4-diazepine-8-carbothioamide | ClC1=C(C=CC=C1)C1C2=C(N(C(CN1)=O)C(C)CCC)SC1=C2CCN(C1)C(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=S | C29H32ClN5O4S2
